US08729102B2
B) tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-2-methoxypyridin-3-yl}oxy)-1-methylethyl]carbamate
A mixture of 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-2-yl acetate (111 mg), THF (1 mL), methanol (1 mL) and 1M lithium hydroxide aqueous solution (1 mL) was stirred at 0° C. for 2 hr. The reaction mixture was neutralized with 1M hydrochloric acid at 0° C., and extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was mixed with toluene (2 mL), methyl iodide (0.021 mL) and silver(I) carbonate (92 mg), and the obtained mixture was stirred at 85° C. for 3 days. To the reaction mixture were further added methyl iodide (0.021 mL) and silver(I) carbonate (92 mg), and the mixture was stirred at 85° C. for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white powder (70.0 mg).

reactant | 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]pyridin-2-yl acetate | 111 mg | C(C)(=O)OC1=NC(=CC=C1OC[C@H](C)NC(=O)OC(C)(C)C)C=1OC2=C(N1)C=CC(=C2)OCC2CC2 | C26H31N3O7
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 1M, 1 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | tert-butyl [(1S)-2-({6-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-2-methoxypyridin-3-yl}oxy)-1-methylethyl]carbamate | 70.0 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC=C(C(=N2)OC)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H31N3O6
